US07582629B2
2-(2-Methoxyethyl)-4-[(4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-morpholin-4-ylaniline in a similar manner as described for Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 2.92-2.97 (m, 4H), 3.38 (s, 3H), 3.70-3.75 (m, 6H), 3.90 (t, 2H), 6.51-6.56 (m, 2H), 6.68-6.72 (m, 2H), 7.08-7.16 (m, 4H), 7.22-7.27 (m, 1H), 7.67 (bs, 1H); Mass Spectrum: M+H+ 444.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 4-morpholin-4-ylaniline | N1(CCOCC1)C1=CC=C(N)C=C1 | C10H14N2O
product | 2-(2-Methoxyethyl)-4-[(4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | COCCN1S(C(=C(C1=O)NC1=CC=C(C=C1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C22H25N3O5S
